US08431596B2
1-Phenyl-3-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-urea (XX-174)
[5-(3-Amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (50 mg, 0.121 mmol) was dissolved in chloroform (3 ml). Phenylisocyanate (0.12 ml, 0.131 mmol) was added and the mixture stirred overnight. The solvent was removed under reduced pressure and the product was purified by preparatory HPLC to give the desired product. RT: 2.78 min, MI: 534, Method: 2. 1H NMR (DMSO, 300 MHz): 1.76 (m, 4H), 2.80 (m, 4H), 2.99 (t, 2H), 3.99 (t, 2H), 6.86 (d, 2H), 6.94 (t, 1H), 7.13 (d, 1H), 7.26 (t, 2H), 7.34-7.66 (m, 9H), 8.32 (s, 1H), 9.43 (bs, 1H), 9.68 (bs, 1H), 9.81 (s, br, 1H).

reactant | [5-(3-Amino-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.121 mmol, 50 mg | NC=1C=C(C=CC1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C24H26N6O
reactant | Phenylisocyanate | 0.131 mmol, 0.12 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Phenyl-3-(3-{2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-[1,2,4]triazolo[1,5-a]pyridin-5-yl}-phenyl)-urea | C1(=CC=CC=C1)NC(=O)NC1=CC(=CC=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C31H31N7O2
